US07625914B2
d.1: Ethyl chloroethoxyacetate
A solution of 40 ml (224 mmol) of ethyl diethoxyacetate, 19 ml (268 mmol) of acetyl chloride and 0.1 g (0.45 mmol) of iodine is heated at 50° C. for 4 hours. Only 60% of the desired product is formed. The reaction medium is cooled to room temperature, 19 ml (268 mmol) of acetyl chloride are added and the medium is heated at 50° C. for a further 18 hours. The reaction medium is evaporated to dryness under vacuum. 36.3 g (100%) of crude ethyl chloroethoxyacetate are obtained.

reactant | ethyl diethoxyacetate | 224 mmol, 40 ml | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | acetyl chloride | 268 mmol, 19 ml | C(C)(=O)Cl | C2H3ClO
reactant | iodine | 0.45 mmol, 0.1 g | II | I2
product | Ethyl chloroethoxyacetate | 60% | ClCCOCC(=O)OCC | C6H11ClO3
